US04931452
(Preparation of 3-Bromo-2-methoxy-5-(trifluoromethyl)pyridine
A mixture of 7.6 g of 2-chloro-3-bromo-5-(trifluoromethyl)pyridine, 6.2 ml of 25 percent sodium methoxide in methanol (0.027 mol), and 20 ml of anhydrous methanol was prepared and allowed to react at ambient temperature with stirring for 16 hours. The mixture was then poured onto ice and the resulting mixture extracted with ether. The ether extract was extracted with water, dried over sodium sulfate, and concentrated by evaporation under reduced pressure and the residue was purified by distillation under reduced pressure to obtain 4.1 g (65 percent of theory) of the title compound as a colorless oil boiling at 86°-88° C. at 21 mm pressure and having a refractive index at 19° C. of 1.4816. The proton nmr spectrum was consistent with the assigned structure.

reactant | 2-chloro-3-bromo-5-(trifluoromethyl)pyridine | 7.6 g | ClC1=NC=C(C=C1Br)C(F)(F)F | C6H2BrClF3N
reactant | sodium methoxide | 6.2 ml | C[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 0.027 mol | CO | CH4O
product | 3-Bromo-2-methoxy-5-(trifluoromethyl)pyridine | BrC=1C(=NC=C(C1)C(F)(F)F)OC | C7H5BrF3NO
